US04472433
(1) Preparation of ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate
A mixture of iron powder (4.2 g.), ammonium chloride (0.42 g.), ethaol (60 ml.) and water (30 ml.) and ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate (5 g.) were treated in a similar manner to that of Example 1-(1) to give oily captioned compound (4.3 g.).

reactant | ammonium chloride | 0.42 g | [Cl-].[NH4+]
reactant | ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate | 5 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H14ClNO5
catalyst | iron | 4.2 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate | NC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H16ClNO3
